US07307099B2
1-(naphthalene-2-sulfonyl)-1H-indole
The title compound was prepared from naphthalene-2-sulfonyl chloride and 1H-indole, according to Method A, described above. Yield 92%; mp 103-105° C.; 1H NMR (CDCl3) δ 8.33-8.34 (m, 1H), 7.85-7.89 (dd, J=8 Hz, 1H), 7.69-7.76 (m, 1H), 7.52-7.64 (m, 3H), 7.29-7.46 (m, 4H), 6.97-7.24 (m, 2H), 6.46-6.48 (dd, J=4 Hz, 1H); 13C NMR (CDCl3) δ 135.6, 135.5, 135.3, 132.3, 131.2, 130.1, 129.8, 128.9, 128.3, 128.2, 126.8, 125.1, 123.8, 121.9, 121.8, 113.9, 109.7; MS (AP+) m/z 308.04 (M++1).

reactant | naphthalene-2-sulfonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 1-(naphthalene-2-sulfonyl)-1H-indole | Yield 92% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1C=CC2=CC=CC=C12 | C18H13NO2S
